US09085555B2
1-{2-[(1R,3S,5S)-3-(2-Fluoro-3-trifluoromethoxy-phenylcarbamoyl)-5-hydroxymethyl-2-aza-bicyclo[3.1.0]hex-2-yl]-2-oxo-ethyl}-1H-indazole-3-carboxylic acid amide
A solution of (3-carbamoyl-indazol-1-yl)-acetic acid (1R,3S,5S)-2-[2-(3-carbamoyl-indazol-1-yl)-acetyl]-3-(2-fluoro-3-trifluoromethoxy-phenylcarbamoyl)-2-aza-bicyclo[3.1.0]hex-5-ylmethyl ester (69.2 mg, 0.085 mmol) and NaOH (1N, 188 μL, 0.19 mmol) in THF (0.45 mL) and water (43 μL) was stirred at RT 1 h. Water and EtOAc were added, the layers were separated and the aqueous one extracted with EtOAc (×2). The combined organic extracts were dried (Na2SO4), filtered and concentrated. The crude residue was purified by preparative HPLC (Waters Sunfire C18-OBD, 5 μm, 30×100 mm, eluent: 20% to 100% CH3CN in H2O in 25 min, CH3CN and H2O containing 0.1% TFA, flow: 40 mL/min). Rf, TLC (CH2Cl2/MeOH 9:1)=0.45; MS (UPLC/MS): 536.4 [M+H]+, 553.3 [M+NH4]+, 558.2 [M+Na]+, 534.3 [M−H]−, 580.3 [M+HCOO]−; tR (HPLC conditions f): 1.82 min.

reactant | (3-carbamoyl-indazol-1-yl)-acetic acid (1R,3S,5S)-2-[2-(3-carbamoyl-indazol-1-yl)-acetyl]-3-(2-fluoro-3-trifluoromethoxy-phenylcarbamoyl)-2-aza-bicyclo[3.1.0]hex-5-ylmethyl ester | 0.085 mmol, 69.2 mg | C(N)(=O)C1=NN(C2=CC=CC=C12)CC(=O)N1[C@@H]2C[C@@]2(C[C@H]1C(NC1=C(C(=CC=C1)OC(F)(F)F)F)=O)COC(CN1N=C(C2=CC=CC=C12)C(N)=O)=O | C34H28F4N8O7
reactant | NaOH | 0.19 mmol, 1N, 188 μL | [OH-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 0.45 mL | C1CCOC1 | C4H8O
solvent | water | 43 μL | O | H2O
product | 1-{2-[(1R,3S,5S)-3-(2-Fluoro-3-trifluoromethoxy-phenylcarbamoyl)-5-hydroxymethyl-2-aza-bicyclo[3.1.0]hex-2-yl]-2-oxo-ethyl}-1H-indazole-3-carboxylic acid amide | FC1=C(C=CC=C1OC(F)(F)F)NC(=O)[C@H]1N([C@@H]2C[C@@]2(C1)CO)C(CN1N=C(C2=CC=CC=C12)C(=O)N)=O | C24H21F4N5O5
